US06133271
Following the procedure of Example 97, the reaction of 2-methylimidazole with 2,5-dichloro-6-methyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(2-methylimidazol-1-yl)-5-chloro-6-methyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | 2,5-dichloro-6-methyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2Cl)C)NCC2=CC=C(C=C2)F | C14H10Cl2FN3S
product | 2-(2-methylimidazol-1-yl)-5-chloro-6-methyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine | CC=1N(C=CN1)C=1N=C(C2=C(N1)SC(=C2Cl)C)NCC2=CC=C(C=C2)F | C18H15ClFN5S
